US04022769
To a stirred solution of the 1,5-androstadiene-3β,17β-diol so prepared in a mixture of dry ether and glyme is added zinc-copper couple and methylene iodide. The mixture is refluxed for a period of about 4 hours, cooled to room temperature, diluted with ether and filtered. The filtrate is washed with an aqueous sodium chloride solution, water and dried over anhydrous magnesium sulfate. The ether is removed under reduced pressure and the residue crystallized from acetone-hexane to yield 1β,2β-methylene-5-androstene-3β,17β-diol.

reactant | 1,5-androstadiene-3β,17β-diol | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC=C3C[C@H](C=C[C@]3(C)[C@H]1CC2)O)O | C19H28O2
reactant | glyme | C(OC)COC | C4H10O2
reactant | methylene iodide | C(I)I | CH2I2
solvent | ether | CCOCC | C4H10O
catalyst | zinc-copper couple | [Cu].[Zn]
product | 1β,2β-methylene-5-androstene-3β,17β-diol | C1[C@@H]2[C@H]1[C@@H](CC1=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]21C)O)O | C20H30O2
